Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Right carotid stenosis.

 
Major Surgical or Invasive Procedure:
___ 
Right carotid endarterectomy and Dacron patch angioplasty.

 
History of Present Illness:
This ___ gentleman has known 60%
carotid stenosis on the right side without symptoms which had
recently progressed to the 80-90% range. Velocity suggested a
critical lesion probably in the 90% range. He was advised to
have carotid endarterectomy.

 
Past Medical History:
PMH: CAD, MI, hypercholesterolemia, anxiety, depression  
PSH: CABG x 4 (___), coronary angioplasty, appendectomy, ORIF 
long bone fracture, cholecystectomy  

 
Social History:
___
Family History:
n/c
 
Physical Exam:
PE:

AFVSS

NEURO:

PERRL / EOMI

MAE equally

Answers simple commands

Neg pronator drift

Sensation intact to ST

2 plus DTR

___

___:

NCAT 

Neg lesions nares, oral pharnyx, auditory

Supple / FAROM

neg lyphandopathy, supra clavicular nodes

LUNGS: CTA b/l

CARDIAC: RRR without murmers

ABDOMEN: Soft, NTTP, ND, pos BS, neg CVA tenderness

EXT:

rle - palp fem, pop, pt, dp

lle - palp fem, pop, pt, dp

 
Pertinent Results:
___ 03:52PM BLOOD Hct-35.8*
___ 07:47AM BLOOD ___ PTT-30.5 ___
___ 03:56AM BLOOD CK(CPK)-87
 
Brief Hospital Course:
___  was admitted on ___ with carotid artery 
stenosis. He agreed to have an elective surgery. 
Pre-operatively, she/he was consented. A CXR, EKG, UA, CBC, 
Electrolytes, T/S - were obtained,  all other preparations were 
made.
 
It was decided that she would undergo a R CEA

He was prepped, and brought down to the operating room for 
surgery. Intra-operatively, he was closely monitored and 
remained hemodynamically stable. He tolerated the procedure well 
without any difficulty or complication.
 
Post-operatively, he was extubated and transferred to the PACU 
for further stabilization and monitoring. 
 
He was then transferred to the VICU for further recovery. While 
in the VICU he received monitored care. When stable he was 
delined. His diet was advanced. A ___ consult was obtained. When 
he was stabilized from the acute setting of post operative care, 
he was transferred to floor status.

His JP was removed
 
On the floor, he remained hemodynamically stable with his pain 
controlled. He progressed with physical therapy to improve her 
strength and mobility. He continues to make steady progress 
without any incidents. He was discharged home facility in stable 
condition.
 
To note __________________ . 
 
Medications on Admission:
ATORVASTATIN [LIPITOR] 20 mg qd, BUSPIRONE [BUSPAR] 10 mg tid, 
FLUVOXAMINE 100 mg tid, HYDROCHLOROTHIAZIDE 12.5 mg qd, 
LISINOPRIL 40 mg qd, METOPROLOL TARTRATE 50 mg bid, 
NITROGLYCERIN 0.4 mg SL prn chest pain, WARFARIN 5 mg qd, 
ASPIRIN 325 mg qd, MVI
 
Discharge Medications:
1. Hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
2. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q8H (every 
8 hours).  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
5. Atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Buspirone 10 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
7. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
8. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
9. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
10. Warfarin 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime): 
Have INR followed in hte usual manner.  
11. Fluvoxamine 100 mg Tablet Sig: One (1) Tablet PO three times 
a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Asymptomatic 80-99% Right carotid artery stenosis

PMH: CAD, MI, hypercholesterolemia, anxiety, depression

 
Discharge Condition:
Stable

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery

Carotid Endarterectomy Surgery Discharge Instructions

What to expect when you go home:
1. Surgical Incision:
•It is normal to have some swelling and feel a firm ridge along 
the incision
•Your incision may be slightly red and raised, it may feel 
irritated from the staples

2. You may have a sore throat and/or mild hoarseness
•Try warm tea, throat lozenges or cool/cold beverages 

3. You may have a mild headache, especially on the side of your 
surgery
•Try ibuprofen, acetaminophen, or your discharge pain 
medication
•If headache worsens, is associated with visual changes or 
lasts longer than 2 hours- call vascular surgeon’s office

4. It is normal to feel tired, this will last for ___ weeks 
•You should get up out of bed every day and gradually increase 
your activity each day 
•You may walk and you may go up and down stairs 
•Increase your activities as you can tolerate- do not do too 
much right away!

5. It is normal to have a decreased appetite, your appetite will 
return with time 
•You will probably lose your taste for food and lose some 
weight 
•Eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•No driving until post-op visit and you are no longer taking 
pain medications
•No excessive head turning, lifting, pushing or pulling 
(greater than 5 lbs) until your post op visit
•You may shower (no direct spray on incision, let the soapy 
water run over incision, rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed
•Take all the medications you were taking before surgery, 
unless otherwise directed
•Take one full strength (325mg) enteric coated aspirin daily, 
unless otherwise directed 
•Call and schedule an appointment to be seen in 2 weeks for 
staple/suture removal

What to report to office:
•Changes in vision (loss of vision, blurring, double vision, 
half vision)
•Slurring of speech or difficulty finding correct words to use
•Severe headache or worsening headache not controlled by pain 
medication
•A sudden change in the ability to move or use your arm or leg 
or the ability to feel your arm or leg
•Trouble swallowing, breathing, or talking
•Temperature greater than 101.5F for 24 hours
•Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions

 
Followup Instructions:
___